US06037356
2. 3-Benzylsulfonylamino-1-carboxymethyl-2-pyridinone
HCl gas was bubbled through a stirred suspension of 3-benzylsulfonylamino-1-(tert-butoxycarbonylmethyl)-2-pyridinone (1.7 g, 4.5 mmol), as prepared in the preceding step, in ethyl acetate (15 mL) at 0° C. until a solution was formed. After 2 h at room temperature, a thick suspension was formed. The mixture was degassed with nitrogen and filtered to give the title compound a white solid (1.4 g, 97%). 1H-NMR (300 MHz, CDCl3) δ8.76 (s, 1H), 7.45 (dd, J=7.0, 1.8Hz, 1H), 7.32 (m, 5H), 7.19 (dd, J=7.2, 1.8Hz, 1H), 6.16 (t, J=7.1 Hz, 1H), 4.69 (s, 2H), 4.56 (s, 2H).

reactant | HCl | Cl | ClH
reactant | 3-benzylsulfonylamino-1-(tert-butoxycarbonylmethyl)-2-pyridinone | 4.5 mmol, 1.7 g | C(C1=CC=CC=C1)S(=O)(=O)NC=1C(N(C=CC1)CC(=O)OC(C)(C)C)=O | C18H22N2O5S
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 3-Benzylsulfonylamino-1-carboxymethyl-2-pyridinone | C(C1=CC=CC=C1)S(=O)(=O)NC=1C(N(C=CC1)CC(=O)O)=O | C14H14N2O5S
